US09107916B2
A. 2-{5-[(4,4-difluorocyclohexyl)methoxy]-1H-pyrazol-1-yl}pyridine-4-carbonitrile
The title compound was prepared from 2-(5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile and (4,4-difluorocyclohexyl)methanol according to the procedure for the preparation of Example 39, part C. 1H NMR (400 MHz, CDCl3): δ 1.40-1.43 (2H, m), 1.66-1.74 (2H, m), 1.84-1.88 (3H, m), 2.08-2.11 (2H, m), 3.97 (2H, d, J=6.0 Hz), 5.62 (1H, d, J=1.6 Hz), 7.33 (1H, d, J=4.8 Hz), 7.50 (1H, d, J=1.6 Hz), 7.94 (1H, s), 8.61 (1H, d, J=5.2 Hz). [M+H] Calc'd for C16H16F2N4O, 319. Found, 319.

reactant | 2-(5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile | OC1=CC=NN1C1=NC=CC(=C1)C#N | C9H6N4O
reactant | (4,4-difluorocyclohexyl)methanol | FC1(CCC(CC1)CO)F | C7H12F2O
product | 2-{5-[(4,4-difluorocyclohexyl)methoxy]-1H-pyrazol-1-yl}pyridine-4-carbonitrile | FC1(CCC(CC1)COC1=CC=NN1C1=NC=CC(=C1)C#N)F | C16H16F2N4O
